US07935722B2
N-(6-Fluoro-2,3,4,9-tetrahydro-1H-carbazol-3-yl)isobutyramide
Combine p-fluorophenylhydrazine hydrochloride (5.00 g, 30.7 mmol) and N-(4-oxo-cyclohexyl)isobutyramide (5.64 g, 30.7 mmol) in ethanolic HCl (125 mL) and heat at reflux under nitrogen for 18 h. Concentrate the reaction in vacuo to remove most of the EtOH, dilute with water and extract with EtOAc. Wash the EtOAc extracts with water and brine, dry over Na2SO4, and evaporate to give 7.1 g (56%) of a beige solid. MS (ES): m/z 275 (M+1); 1H NMR(DMSO-d6): δ 10.79 (s, 1H, NH), 7.81 (d, 1H, J=7.5 Hz), 7.19 (dd, 1H, J=8.6, 4.6 Hz), 7.07 (d, 1H, J=10.1 Hz), 6.79 (dt, 1H, J=8.9, 1.8 Hz), 4.00 (m, 1H), 2.85 (dd, 1H, J=15.0, 5.3 Hz), 2.76 (m, 2H), 2.39 (m, 2H), 1.93 (m, 1H), 1.75 (m, 1H), 0.99 (d, 6H, J=6.6 Hz).

reactant | p-fluorophenylhydrazine hydrochloride | 30.7 mmol, 5.00 g | Cl.FC1=CC=C(C=C1)NN
reactant | N-(4-oxo-cyclohexyl)isobutyramide | 30.7 mmol, 5.64 g | O=C1CCC(CC1)NC(C(C)C)=O | C10H17NO2
solvent | HCl | 125 mL | Cl | ClH
product | N-(6-Fluoro-2,3,4,9-tetrahydro-1H-carbazol-3-yl)isobutyramide | 7.1 g, 56% | FC=1C=C2C=3CC(CCC3NC2=CC1)NC(C(C)C)=O | C16H19FN2O
